US08383644B2
(3S,8S)-3-(4-Acetoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester
(S)-3-[(S)-2-(4-Acetoxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-((S)-1-phenyl-propylamino)-propionic acid methyl ester (110 mg) was dissolved in 32 mL dry dioxane and 20 mg paraformaldehyde and 8 mL trifluoroacetic acid were added. The reaction stirred 48 h at rt. NaHCO3 was added until a pH of 7 was achieved, then the mixture was extracted with EtOAc. The organic extract was washed with brine and dried over Na2SO4 and evaporated. The residue was purified by silica gel flash chromatography (9:1 to 8:2 hexanes/EtOAc) to give 120 mg desired product. LCMS (m/z): 503.

reactant | (S)-3-[(S)-2-(4-Acetoxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-((S)-1-phenyl-propylamino)-propionic acid methyl ester | 110 mg | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)OC(C)=O)C=C1)N[C@@H](CC)C1=CC=CC=C1)=O | C29H31NO6
reactant | paraformaldehyde | 20 mg | C=O | CH2O
reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 32 mL | O1CCOCC1 | C4H8O2
product | (3S,8S)-3-(4-Acetoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester | 120 mg | COC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OC(C)=O)[C@@H](CC)C3=CC=CC=C3 | C30H31NO6
